US09119868B2
Step 2: 6-(N-(4-amino-3-cyanophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
A solution of Na2S2O4 (7.24 g, 41.6 mmol) in water (70 mL) was added dropwise to a solution of 6-(N-(3-cyano-4-nitrophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (3.8 g, 6.93 mmol) in THF at room temperature under N2. The mixture was stirred overnight. H2O was added to the mixture and then extracted with EtOAc. The combined extracts were washed with brine, dried over Na2SO4. After concentration, the crude residue was purified by chromatography on silica gel eluted with 0-20% EtOAC in DCM to give the desired product as a white solid (2.67 g, 74.3%). LCMS (m/z, ES+)=519 (M+H+)

reactant | Na2S2O4 | 41.6 mmol, 7.24 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | 6-(N-(3-cyano-4-nitrophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 6.93 mmol, 3.8 g | C(#N)C=1C=C(C=CC1[N+](=O)[O-])N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C27H21FN4O6S
solvent | water | 70 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 6-(N-(4-amino-3-cyanophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 2.67 g, 74.3% | NC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)C#N | C27H23FN4O4S
